US07297816B2
(±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-[2-(4-chloro-phenyl)-1-hydroxymethyl-ethyl]-benzamide
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid was coupled with (±)-2-amino-3-(4-chloro-phenyl)-propan-1-ol as in EXAMPLE 1, Part C. HPLC: RT=9.71 min. MS (ESI−): mass calcd. for C22H18Cl2N4O4S2, 536.01; m/z found, 535/537 [M−H]−. 1H NMR (500 MHz, CDCl3): 11.57 (s, 1H), 8.38 (br d, J=6.2, 1H), 8.22 (br d, J=8.4, 1H), 7.71 (br m, 2H), 7.35-7.10 (br m, 5H), 6.92 (br d, J=6.0, 1H), 6.30 (br m, 1H), 4.36-4.27 (br m, 1H), 3.76-3.62 (br m, 2H), 2.98-2.85 (br m, 2H), 1.92 (br s, 1H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Cl | C13H8ClN3O4S2
reactant | (±)-2-amino-3-(4-chloro-phenyl)-propan-1-ol | NC(CO)CC1=CC=C(C=C1)Cl | C9H12ClNO
product | (±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-[2-(4-chloro-phenyl)-1-hydroxymethyl-ethyl]-benzamide | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)NC(CC1=CC=C(C=C1)Cl)CO)C=CC(=C2)Cl | C22H18Cl2N4O4S2
